US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (3.0 g, 8.8 mmol) and 2-amino-4-methylbenzamide (2.0 g, 13.2 mmol), 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4-methylbenzamide was isolated as a white solid (2.81 g, 70% Yield): 1H NMR (400 MHz, DMSO-d6) δ ppm 2.34 (s, 3 H), 2.36 (s, 3 H), 6.65 (d, J=3.84 Hz, 1 H), 6.98 (s, 1 H), 7.47 (d, J=8.05 Hz, 2 H), 7.70 (s, 1 H), 7.74 (s, 1 H), 7.75 (d, J=2.93 Hz, 1 H), 7.98 (d, J=8.42 Hz, 2 H), 8.25 (s, 1 H), 8.33 (s, 1 H), 12.52 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 8.8 mmol, 3.0 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-4-methylbenzamide | 13.2 mmol, 2.0 g | NC1=C(C(=O)N)C=CC(=C1)C | C8H10N2O
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4-methylbenzamide | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=CC(=C2)C | C21H18ClN5O3S
